US09227978B2
tert-Butyl 3-(4-(2-((2-carbamoyl-4-chloro-5-cyclopropylphenyl)amino)acetyl)piperazin-1-yl)azetidine-1-carboxylate
To a solution of tert-butyl 3-(4-(2-((5-bromo-2-carbamoyl-4-chlorophenyl)amino)acetyl)piperazin-1-yl)azetidine-1-carboxylate (350 mg, 0.66 mmol) and cyclopropylboronic acid (226 mg, 2.64 mmol) in toluene (10 mL) and water (2 mL), Pd(OAc)2 (15 mg, 0.07 mmol), PCy3 (37 mg, 0.132 mmol) and K3PO4 (487 mg, 2.31 mmol) were added. The mixture was stirred at 80° C. for 16 h. The mixture was allowed to cool to RT and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (1-5% methanol/dichloroethane) to afford the desired product (150 mg, 46% yield) as a solid.

reactant | tert-butyl 3-(4-(2-((5-bromo-2-carbamoyl-4-chlorophenyl)amino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 0.66 mmol, 350 mg | BrC=1C(=CC(=C(C1)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C(N)=O)Cl | C21H29BrClN5O4
reactant | cyclopropylboronic acid | 2.64 mmol, 226 mg | C1(CC1)B(O)O | C3H7BO2
reactant | PCy3 | 0.132 mmol, 37 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 2.31 mmol, 487 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mL | O | H2O
catalyst | Pd(OAc)2 | 0.07 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 3-(4-(2-((2-carbamoyl-4-chloro-5-cyclopropylphenyl)amino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 150 mg, 46% yield | C(N)(=O)C1=C(C=C(C(=C1)Cl)C1CC1)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C | C24H34ClN5O4
